US06310203B1
a) 1-[2-(Trimethylsilyl)ethoxy]methyl-1,2,4-triazole
To a suspension of sodium hydride (4.63 g, 0.12 mol) in tetrahydrofuran (150 ml) was added 1,2,4-triazole (8.0 g, 0.12 mol) at room temperature under nitrogen. The mixture was cooled to 0° C. and 2-(trimethylsilyl)ethoxymethylchloride (20.5 ml, 0.12 mol) added dropwise. The mixture was stirred at room temperature overnight, water (100 ml) was added and the mixture diluted with ethyl acetate. The organic layer was dried ((MgSO4) and evaporated in vacuo and the residue distilled to give the title-compoud (14.6 g, 63%), bp 110° C. at 5mm Hg; 1H NMR (250 MHz, CDCl3) δ 0.01-0.03 (9H, s, 3 of CH3), 0.93 (2H, m, CH2), 3.63 (2H, m, CH2), 5.52 (2H, s, CH2), 7.99 (1H, s, Ar—H), 8.26 (1H, s Ar—H).

reactant | sodium hydride | 0.12 mol, 4.63 g | [H-].[Na+]
reactant | 1,2,4-triazole | 0.12 mol, 8.0 g | N1N=CN=C1 | C2H3N3
reactant | 2-(trimethylsilyl)ethoxymethylchloride | 0.12 mol, 20.5 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-(Trimethylsilyl)ethoxy]methyl-1,2,4-triazole | C[Si](CCOCN1N=CN=C1)(C)C | C8H17N3OSi
